US05576324
To N-(4-methoxy-2-methylphenyl)cinnamamide (28.33 g, 0.106M), aluminum chloride (70.5 g, 529 mmol) and chlorobenzene (175 ml) were added, and the mixture was stirred in a bath of 125° C. for 1 hour. Thereafter, the mixture was cooled and poured into ice--water, to which n-hexane was added. The insoluble matter was collected by filtration, and washed with chloroform. As a result, 15.0 of 6-hydroxy-8-methylcarbostyril was obtained as brown crystals (80.8%).

reactant | N-(4-methoxy-2-methylphenyl)cinnamamide | 0.106M, 28.33 g | COC1=CC(=C(C=C1)NC(C=CC1=CC=CC=C1)=O)C | C17H17NO2
reactant | aluminum chloride | 529 mmol, 70.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 175 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
product | 6-hydroxy-8-methylcarbostyril | OC=1C=C2C=CC(NC2=C(C1)C)=O | C10H9NO2
